US06498170B2
Benzyl-[1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl]-amine
A solution of methanesulfonic acid 1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl ester (1.51 g, 4 mmol) in tetrahydrofuran (8 ml) was added benzylamine (3.46 g, 32 mmol) and the mixture was stirred at 100° C. for 2 days. After cooling to room temperature the tetrahydrofuran was evaporated, and the residue washed with hexanes. The solid was stirred with 10% sodium carbonate solution (30 ml) and ethyl acetate (40 ml), and the organic solution was washed brine, dried over anhydrous sodium sulfate, and filtered through Magnolsol. The filtrate was evaporated, and the residue was washed with hexanes to give 1.49 g of a white solid; m.p. 99-100° C.; MS (ES) m/z 389.0 (MH+); HRMS (El) Calcd. for C21H28N2O3S (M+): 388.1820, Found: 388.1826.

reactant | methanesulfonic acid 1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl ester | 4 mmol, 1.51 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(CC1)OS(=O)(=O)C | C15H23NO6S2
reactant | benzylamine | 32 mmol, 3.46 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | Benzyl-[1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl]-amine | 1.49 g | C(C1=CC=CC=C1)NC1CN(CC1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C21H28N2O3S
